US07915288B2
A suspension of 4-acetyl-6-methoxy-isochroman-1,3-dione (10 g, 43 mmol) in NH4OH (60 ml) in a pressure vessel is heated for 2 h at 100° C. After cooling, the reaction mixture is poured into water. The white solid is filtered, washed with water, and dried to give 6.7 g of 6-methoxy-3-methyl-2H-isoquinolin-1-one. 1H NMR (CDCl3) 11.0 (br s, 1H), 8.28 (d, 1H), 6.98 (d, 1H), 6.81 (s, 1H), 6.23 (s, 1H), 3.89 (s, 3H), 2.37 (s, 3H).

reactant | 4-acetyl-6-methoxy-isochroman-1,3-dione | 43 mmol, 10 g | C(C)(=O)C1C(OC(C2=CC=C(C=C12)OC)=O)=O | C12H10O5
reactant | water | O | H2O
reactant | NH4OH | 60 ml | [NH4+].[OH-]
product | 6-methoxy-3-methyl-2H-isoquinolin-1-one | 6.7 g | COC=1C=C2C=C(NC(C2=CC1)=O)C | C11H11NO2
